US08084448B2
I. 7-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-6,7-dihydro-dibenzo[c,e]azepin-5-one
The title compound is prepared from 7-iodomethyl-6,7-dihydro-dibenzo[c,e]azepin-5-one and 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one analogous to the method used in Example 57, step B.

reactant | 7-iodomethyl-6,7-dihydro-dibenzo[c,e]azepin-5-one | ICC1C2=C(C3=C(C(N1)=O)C=CC=C3)C=CC=C2 | C15H12INO
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
product | 7-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-6,7-dihydro-dibenzo[c,e]azepin-5-one | C(C1=CC=CC=C1)OC=1C=C(CC2C3=C(C4=C(C(N2)=O)C=CC=C4)C=CC=C3)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C35H37N3O5SSi
